US07569571B2
A. Preparation of 3-[6-(4-Bromomethyl-phenyl)-purin-9-yl]-N-cyclopropyl-4-methyl-benzamide
To a mixture of N-cyclopropyl-3-[6-(4-hydroxymethyl-phenyl)-purin-9-yl]-4-methyl-benzamide (58 mg, 0.145 mmol, see example 4C-3 1) in dichloromethane (0.5 ml) was added carbon tetrabromide (58 mg, 0.175 mmol) then triphenylphosphine (47 mg, 0.179 mmol). The mixture was stirred at RT for an hour, then purified by a column eluting with EtOAc/Hex. (1:1) to give the desired product as a crude (88 mg, 0.19 mmol, 63%).

reactant | N-cyclopropyl-3-[6-(4-hydroxymethyl-phenyl)-purin-9-yl]-4-methyl-benzamide | 0.145 mmol, 58 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C2=NC=NC(=C2N=C1)C1=CC=C(C=C1)CO)=O | C23H21N5O2
reactant | carbon tetrabromide | 0.175 mmol, 58 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.179 mmol, 47 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 3-[6-(4-Bromomethyl-phenyl)-purin-9-yl]-N-cyclopropyl-4-methyl-benzamide | BrCC1=CC=C(C=C1)C1=C2N=CN(C2=NC=N1)C=1C=C(C(=O)NC2CC2)C=CC1C | C23H20BrN5O
